US04382937
A mixture of 3-trifluoroacetylaminopyrrolidine (5.46 g), ethanol (60 ml) and triethylamine (3 g) was added to ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate (5.93 g) obtained according to Reference Example 1. The mixture was heated under reflux for one hour. After ice-cooling, the resulting crystals were collected by filtration and washed with ethanol. Recrystallization of the crude crystals from ethanol-chloroform gave 7.5 g of ethyl 6-fluoro-7-(3-trifluoroacetylamino-1-pyrrolidinyl)-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate, m.p. 280°-282° C. A solution of the compound (4.4 g) thus obtained in 1 N sodium hydroxide (80 ml) was stirred for 2 hours at 60° C. At the same temperature the mixture was adjusted to pH 7-8 by addition of acetic acid. After ice-cooling, the resulting crystals were collected by filtration, washed with water, and dissolved in hot 10% acetic acid, followed by treating with charcoal.

reactant | 3-trifluoroacetylaminopyrrolidine | 5.46 g | FC(C(=O)NC1CNCC1)(F)F | C6H9F3N2O
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate | 5.93 g | ClC1=C(C=C2C(C(=CN(C2=N1)C=C)C(=O)OCC)=O)F | C13H10ClFN2O3
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | ethyl 6-fluoro-7-(3-trifluoroacetylamino-1-pyrrolidinyl)-1,4-dihydro-4-oxo-1-vinyl-1,8-naphthyridine-3-carboxylate | 7.5 g | FC=1C=C2C(C(=CN(C2=NC1N1CC(CC1)NC(C(F)(F)F)=O)C=C)C(=O)OCC)=O | C19H18F4N4O4
